US07834136B2
N-(4-tert-Butylphenyl)methyl-3,6-dibromocarbazole (EM3)
In a 250 ml one-neck flask provided with a reflux condenser, 990 mg (41.2 mmol) of NaH were suspended in 80 ml of dry DMF under protective gas. 10 g (30.8 mmol) of 3,6-dibromocarbazole in 80 ml of DMF were added dropwise to this reaction mixture at RT over a period of 20 minutes. A solution of 4-(tert-butyl)-benzyl bromide in 50 ml of DMF was subsequently added dropwise and the mixture was heated at 60° C. for 8 hours. After cooling to room temperature, 300 ml of water and 200 ml of ethyl acetate were carefully added. The organic phase was washed with 4×50 ml of H2O, then dried over MgSO4 and the solvents were removed under reduced pressure. The pure product was obtained by recrystallization from n-hexane. Yield: 11 g (78%); HPLC purity: 99.4%.

reactant | NaH | 41.2 mmol, 990 mg | [H-].[Na+]
reactant | 3,6-dibromocarbazole | 30.8 mmol, 10 g | BrC=1C=CC=2NC3=CC=C(C=C3C2C1)Br | C12H7Br2N
reactant | 4-(tert-butyl)-benzyl bromide | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
reactant | water | 300 ml | O | H2O
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-tert-Butylphenyl)methyl-3,6-dibromocarbazole | C(C)(C)(C)C1=CC=C(C=C1)CN1C2=CC=C(C=C2C=2C=C(C=CC12)Br)Br | C23H21Br2N
